US08026233B2
To a solution of 6-bromo-5-(2,4-difluorophenoxy)-1H-indazole (1.35 g, 4.15 mmol) and 2,2-dimethyloxirane (0.755 mL, 8.30 mmol) in DMA (20 mL) in a sealed tube was added potassium carbonate (1.72 g, 12.5 mmol), and the reaction was heated to 80° C. for 16 hours. The reaction mixture was allowed to cool to ambient temperature, diluted with ethyl acetate, and washed twice with water and once with brine. It was dried over Na2SO4, filtered, and concentrated. The residue was purified by flash chromatography on silica gel loaded and eluted with 35% ethyl acetate/hexanes to yield pure 1-(6-bromo-5-(2,4-difluorophenoxy)-1H-indazol-1-yl)-2-methylpropan-2-ol (0.60 g, 36.4% yield).

reactant | 6-bromo-5-(2,4-difluorophenoxy)-1H-indazole | 4.15 mmol, 1.35 g | BrC1=C(C=C2C=NNC2=C1)OC1=C(C=C(C=C1)F)F | C13H7BrF2N2O
reactant | 2,2-dimethyloxirane | 8.30 mmol, 0.755 mL | CC1(OC1)C | C4H8O
reactant | potassium carbonate | 12.5 mmol, 1.72 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMA | 20 mL | CC(=O)N(C)C | C4H9NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(6-bromo-5-(2,4-difluorophenoxy)-1H-indazol-1-yl)-2-methylpropan-2-ol | 0.60 g, 36.4% yield | BrC1=C(C=C2C=NN(C2=C1)CC(C)(O)C)OC1=C(C=C(C=C1)F)F | C17H15BrF2N2O2
